US08754107B2
To a solution of n-butyllithium (1-2 equivalents, preferably 1.1 equivalents) (1.6 M in hexane, 8.6 ml, 13.76 mmol) in Et2O (10.32 mL) was added a solution of 1-bromo-4-fluorobenzene (2.21 g, 12.63 mmol) in Et2O (5 ml) at about −50° C. After the reaction mixture was stirred at about −50° C. for about 40 min, a solution of 1-benzyl-3-methylpiperidin-4-one (2.00 g, 9.84 mmol) in Et2O (7 mL) was added dropwise. The mixture was allowed to warm up to about −20° C. to 0° C. (preferably −10° C.). 1M hydrochloric acid (20 mL) was added and the organic phase was discarded. Et2O (20 mL) was added to the aqueous solution and aqueous NH4OH was added to the solution until pH>9. The organic layer was separated and the aqueous layer was extracted with DCM (20 mL), The combined organic portions were washed with brine (2×10 mL), dried over MgSO4, filtered, and concentrated in vacuo to give 1-benzyl-4-(4-fluorophenyl)-3-methylpiperidin-4-ol (2.48 g, 84%) as an oil which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method a) Rt 1.63 min; m/z: (M+H)+ 300.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-fluorobenzene | 12.63 mmol, 2.21 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 1-benzyl-3-methylpiperidin-4-one | 9.84 mmol, 2.00 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | hydrochloric acid | 1M, 20 mL | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | hexane | CCCCCC | C6H14
solvent | Et2O | 10.32 mL | CCOCC | C4H10O
solvent | Et2O | 5 ml | CCOCC | C4H10O
solvent | Et2O | 7 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 1-benzyl-4-(4-fluorophenyl)-3-methylpiperidin-4-ol | 2.48 g, 84% | C(C1=CC=CC=C1)N1CC(C(CC1)(O)C1=CC=C(C=C1)F)C | C19H22FNO
